US09315521B2
2-{[(2,4-diethylpyridin-3-yl)methyl]sulfanyl}-6-(trifluoromethyl)pyrimidin-4-ol (500 mg, 1.5 mmol) was stirred in methanol (60 mL), and a solution of 4 N HCl in dioxane (550 μL, 2.2 mmol) was added dropwise at 0° C. The mixture was stirred for 10 minutes at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether and dried in vacuo to afford 2-{[(2,4-diethylpyridin-3-yl)methyl]sulfanyl}-6-(trifluoromethyl)pyrimidin-4-ol hydrochloride (530 mg, 95% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.21-1.29 (m, 6H), 2.93 (q, J=7.5 Hz, 2H), 3.11-3.17 (m, 2H), 4.69 (s, 2H), 6.74 (s, 1H), 7.79 (d, J=6.1 Hz, 1H), 8.65 (d, J=6.1 Hz, 1H); LRMS (ES+) m/z 344 (100%, M+1).

reactant | 2-{[(2,4-diethylpyridin-3-yl)methyl]sulfanyl}-6-(trifluoromethyl)pyrimidin-4-ol | 1.5 mmol, 500 mg | C(C)C1=NC=CC(=C1CSC1=NC(=CC(=N1)O)C(F)(F)F)CC | C15H16F3N3OS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 2.2 mmol, 550 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 60 mL | CO | CH4O
product | 2-{[(2,4-diethylpyridin-3-yl)methyl]sulfanyl}-6-(trifluoromethyl)pyrimidin-4-ol hydrochloride | 530 mg, 95% yield | Cl.C(C)C1=NC=CC(=C1CSC1=NC(=CC(=N1)O)C(F)(F)F)CC | InChI=1S/C15H16F3N3OS.ClH/c1-3-9-5-6-19-11(4-2)10(9)8-23-14-20-12(15(16,17)18)7-13(22)21-14;/h5-7H,3-4,8H2,1-2H3,(H,20,21,22);1H
